US08034811B2
To a stirred solution of 5-amino-isoquinoline (526 mg) in DMF (20 ml) at 0-5° C. was added sodium hydride (400 mg of a 55 to 65% dispersion in mineral oil). The cooling bath was removed and the dark green reaction mixture was stirred at room temperature for 30 minutes. 2-Chloro-nicotinonitrile (506 mg) was added and the mixture was stirred at room temperature for 12 hours. The reaction was quenched by addition of water and the products were extracted several times with EtOAc. The combined organic layers were washed with water and 3M CaCl2, dried (MgSO4) and evaporated under reduced pressure. The remaining red-brown solid material was re-crystallised from ethanol and gave 2-(isoquinolin-5-ylamino)-nicotinonitrile (306 mg): 13C-NMR (DMSO-d6) δ 157.6, 152.4, 152.4, 143.1, 142.5, 135.0, 132.1, 129.0, 127.2, 126.9, 125.1, 116.5, 116.3, 114.3, 92.5.

reactant | 5-amino-isoquinoline | 526 mg | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | sodium hydride | [H-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(isoquinolin-5-ylamino)-nicotinonitrile | 306 mg | C1=NC=CC2=C(C=CC=C12)NC1=C(C#N)C=CC=N1 | C15H10N4
